US07947680B2
Step 2: 3-Amino-adamantane-1-carboxylic acid hydrochloride
To a 3-neck 5-L flask equipped with a reflux condenser, a mechanical stirrer and a temperature probe was added 3-acetylamino-adamantane-1-carboxylic acid (432 g, 1.82 mol), water (1.00 L) and concentrated hydrochloric acid (2.44 L), and the resulting mixture was heated at 95° C. for 6 days. During this time, solid material precipitated from the solution. After cooling at 0° C., the solids were filtered and washed with acetone. The solid was then dried under high vacuum at 50° C. for about 2 hours to afford 328 g (78%) of the title compound, 3-amino-adamantane-1-carboxylic acid hydrochloride, as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 12.35 (br s, 1H), 8.27 (br s, 3H), 2.22-2.12 (m, 2H), 1.92-1.85 (m, 2H), 1.83-1.71 (ml 6H), 1.69-1.48 (m, 4H).

reactant | 3-acetylamino-adamantane-1-carboxylic acid | 1.82 mol, 432 g | C(C)(=O)NC12CC3(CC(CC(C1)C3)C2)C(=O)O | C13H19NO3
reactant | hydrochloric acid | 2.44 L | Cl | ClH
solvent | water | 1.00 L | O | H2O
product | 3-Amino-adamantane-1-carboxylic acid hydrochloride | 328 g, 78% | Cl.NC12CC3(CC(CC(C1)C3)C2)C(=O)O | InChI=1S/C11H17NO2.ClH/c12-11-4-7-1-8(5-11)3-10(2-7,6-11)9(13)14;/h7-8H,1-6,12H2,(H,13,14);1H
